US06248770B1
f. 4-[1-[(pyridin-3-yl)-carbonyl]cyclopropyl]-2-nitro-N-trifluoroacetyl-N-methyl-aniline
1.15 g (3.0 mmol) of 4-[1-[(pyridin-3-yl)-carbonyl]cyclopropyl]-2-nitro-trifluoroacetylaniline are dissolved in 50 ml acetone and after the addition of 2.0 g potassium carbonate and 0.8 ml methyl iodide refluxed for two hours. The insoluble matter is filtered off and the solution is evaporated down. The residue is chromatographed on silica gel, eluting with petroleum ether/ethyl acetate (1:1 and 1:4).

reactant | 4-[1-[(pyridin-3-yl)-carbonyl]cyclopropyl]-2-nitro-trifluoroacetylaniline | 3.0 mmol, 1.15 g | N1=CC(=CC=C1)C(=O)C1(CC1)C1=CC(=C(NC(C(F)(F)F)=O)C=C1)[N+](=O)[O-] | C17H12F3N3O4
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.8 ml | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[1-[(pyridin-3-yl)-carbonyl]cyclopropyl]-2-nitro-N-trifluoroacetyl-N-methyl-aniline | N1=CC(=CC=C1)C(=O)C1(CC1)C1=CC(=C(N(C)C(C(F)(F)F)=O)C=C1)[N+](=O)[O-] | C18H14F3N3O4
